US07939524B2
b) 4-Amino-pyridine-3-sulfonic Acid Amide
4-Azido-pyridine-3-sulfonic acid amide (3.75 g, 18.83 mmol) was dissolved in methanol (80 mL). Sodium borohydride (0.712 g, 18.83 mmol) was carefully added portionwise. Vigorous effervescence was observed. The mixture continued to stir at 25° C. for 25 min. The mixture was concentrated in vacuo to a thick yellow sludge. The residue was dissolved in a mixture of ethyl acetate (200 mL) and saturated aqueous ammonium chloride solution (200 mL). The aqueous layer was back extracted with ethyl acetate (6×200 mL). The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo to afford the desired product, 4-amino-pyridine-3-sulfonic acid amide (1.8 g, 10.4 mmol, 55%), as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ: 6.63 (2H, bs), 6.68 (1H, d, J=5.4 Hz), 7.40 (2H, bs), 8.06 (1H, d, J=5.5 Hz), 8.43 (1H, s).

reactant | 4-Azido-pyridine-3-sulfonic acid amide | 18.83 mmol, 3.75 g | N(=[N+]=[N-])C1=C(C=NC=C1)S(=O)(=O)N | C5H5N5O2S
reactant | Sodium borohydride | 18.83 mmol, 0.712 g | [BH4-].[Na+]
solvent | methanol | 80 mL | CO | CH4O
product | 4-amino-pyridine-3-sulfonic acid amide | 10.4 mmol, 1.8 g, 55% | NC1=C(C=NC=C1)S(=O)(=O)N | C5H7N3O2S
